US03937801
To an ice cold solution of trans-2-(4-cyclohexyl-3-oxo-1-butenyl)-5-[(tetrahydropyran-2-yl)oxy]cyclopentaneheptanoic acid methyl ester (43 g), prepared in Example 7, in 200 ml of methanol, sodium borohydride (3.8 g) is added portionwise. After stirring for 30 min. acetic acid (4.2 ml) is added. The mixture is concentrated under reduced pressure. The residue is taken up in ether. The ether solution is washed to neutral with water and saturated NaCl solution, dried and evaporated to yield trans-2-(4-cyclohexyl-3-hydroxy-1-butenyl)-5-[(tetrahydropyran-2-yl)oxy]cyclopentaneheptanoic acid methyl ester, νmaxCHCl3 3,450, 1,735, 1,030 cm- 1.

reactant | trans-2-(4-cyclohexyl-3-oxo-1-butenyl)-5-[(tetrahydropyran-2-yl)oxy]cyclopentaneheptanoic acid methyl ester | 43 g | COC(CCCCCCC1C(CCC1OC1OCCCC1)\C=C\C(CC1CCCCC1)=O)=O | C28H46O5
reactant | sodium borohydride | 3.8 g | [BH4-].[Na+]
reactant | acetic acid | 4.2 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 200 ml | CO | CH4O
product | trans-2-(4-cyclohexyl-3-hydroxy-1-butenyl)-5-[(tetrahydropyran-2-yl)oxy]cyclopentaneheptanoic acid methyl ester | COC(CCCCCCC1C(CCC1OC1OCCCC1)\C=C\C(CC1CCCCC1)O)=O | C28H48O5
